US08604034B2
A (0.6:1) mixture of 7-bromo-10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one and 8-bromo-10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (50 mg, 0.14 mmol), pyridine-4-boronic acid (18 mg, 0.15 mmol), sodium carbonate (20 mg, 0.19), dichlorobis(triphenylphosphine)palladium(II) (2 mg, 3 μmol), 1,2-dimethoxyethane (700 μL), ethanol (200 μL) and water (300 μL) were combined in a sealed tube. The reaction mixture was heated at 150° C. for 10 min in a microwave reactor. The reaction mixture was diluted with brine (50 mL) and extracted with CH2Cl2 containing 20% of propan-2-ol (2×50 mL). The organic layers were dried (MgSO4) and concentrated in vacuo to give crude product that was purified using flash chromatography (Biotage SP4, 12 g cartridge; 0-10% MeOH gradient in CH2Cl2) to give 10a-(4-chlorophenyl)-8-(pyridin-4-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one as a yellow solid (70 mg) contaminated with its regioisomer (7:1 ratio). 1H NMR (400 MHz, MeOD): δ 2.80-2.91 (m, 1H), 3.28-3.39 (m, 1H), 3.58 (ddd, 1H, J 11.1, 7.6, 3.5 Hz), 3.83 (dt, J 11.1, 7.8 Hz), 4.39 (d, 1H, J 12.5 Hz), 4.72 (d, 1H, J 12.4 Hz), 6.46 (d, 1H, J 4.0 Hz), 6.95 (d, 1H, J 4.0 Hz), 7.20-7.23 (m, 2H), 7.30 (s, 4H), 8.52-8.55 (m, 2H).

reactant | 7-bromo-10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | BrC=1C=C2N(CC3(N(C2=O)CCN3)C3=CC=C(C=C3)Cl)C1 | C15H13BrClN3O
reactant | 8-bromo-10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.14 mmol, 50 mg | BrC1=CC=C2N1CC1(N(C2=O)CCN1)C1=CC=C(C=C1)Cl | C15H13BrClN3O
reactant | pyridine-4-boronic acid | 0.15 mmol, 18 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 20 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | brine | 50 mL | [Cl-].[Na+].O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 3 μmol, 2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 300 μL | O | H2O
solvent | ethanol | 200 μL | C(C)O | C2H6O
solvent | 1,2-dimethoxyethane | 700 μL | COCCOC | C4H10O2
product | 10a-(4-chlorophenyl)-8-(pyridin-4-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 70 mg | ClC1=CC=C(C=C1)C12N(C(C=3N(C1)C(=CC3)C3=CC=NC=C3)=O)CCN2 | C20H17ClN4O
